US05162316
7-Methylthio-2-(2-methoxyphenyl)-4-oxo-3,4-dihydropyrimido[4,5-d]pyrimidine
2-Methoxybenzamidine (from sodium, 0.15 g, in ethanol, 20 ml, and 2-methoxybenzamidine methanesulphonate, 1.70 g) was dissolved in acetonitrile (20 ml) and the resulting cooled (2° C.) solution was added to a cooled (2° C.) suspension of ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate (2.33 g) in acetonitrile (20 ml). Triethylamine (0.66 g) was added and the reaction mixture was stirred at 2° C. for one hour and at ambient temperature for 18 hours. Acetonitrile was removed under reduced pressure and water (25 ml) was added. The mixture was cooled and a white solid was collected, washed with water and recrystallised from ethanol to yield the title compound, 0.46 g, m.p. 229°-231° C. (dec.).

reactant | 2-Methoxybenzamidine | 20 ml, 0.15 g | COC1=C(C(=N)N)C=CC=C1 | C8H10N2O
reactant | ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate | 2.33 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | Triethylamine | 0.66 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-Methylthio-2-(2-methoxyphenyl)-4-oxo-3,4-dihydropyrimido[4,5-d]pyrimidine | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OC | C14H12N4O2S
